US06921821B2
4-(1-Benzo[1,3]dioxol-5-ylmethylpiperidin-4-ylamino)-6-chloro-1-pyridin-4-ylmethyl-1H-quinolin-2-one (V-4)
4-(6-Chloro-2-oxo-1-pyridin-4-ylmethyl-1,2-dihydroquinolin-4-ylamino)-piperidine-1-carboxylic acid t-butyl ester (1.22 g, 2.6 mmol) was dissolved in DCM (10 mL) and treated with trifluoroacetic acid (5 mL). The solution was stirred for 15 minutes before evaporating under reduced pressure. The crude amine was dissolved in acetone (25 mL), treated with cesium carbonate (1.26 g) and stirred for 15 minutes prior to addition of piperonyl chloride (50% wt solution in DCM, 1.4 mL). The mixture was heated to 50° C. for 8 hours at which time LC/MS analysis indicated the reaction was complete. The reaction was diluted with ethyl acetate and washed with 1 N NaOH. The organic layer was dried with sodium sulfate and concentrated to give the crude product which was purified by silica chromatography using DCM and methanol eluent to give the title compound (0.91 g). 1H NMR (300 MHz, CDCl3) δ ppm 2.07 (2H, m), 2.23 (2H, m), 2.67 (2H, m), 3.19 (2H, m), 3.67 (1H, m), 3.81 (2H, s), 5.44 (3H, br s), 5.81 (1H, s), 5.95 (2H, s), 6.77 (1H, d, J=7.91 Hz), 6.93 (1H, m), 7.04 (4H, m), 7.30 (1H, m), 7.81 (1H, m), 8.48 (2H, m).

reactant | 4-(6-Chloro-2-oxo-1-pyridin-4-ylmethyl-1,2-dihydroquinolin-4-ylamino)-piperidine-1-carboxylic acid t-butyl ester | 2.6 mmol, 1.22 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC(N(C2=CC=C(C=C12)Cl)CC1=CC=NC=C1)=O | C25H29ClN4O3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(1-Benzo[1,3]dioxol-5-ylmethylpiperidin-4-ylamino)-6-chloro-1-pyridin-4-ylmethyl-1H-quinolin-2-one | 0.91 g | O1COC2=C1C=CC(=C2)CN2CCC(CC2)NC2=CC(N(C1=CC=C(C=C21)Cl)CC2=CC=NC=C2)=O | C28H27ClN4O3
